US07199139B2
Oxalyl chloride (8.83 ml) and N,N-dimethylformamide (3 drops) were added at room temperature to a solution of 4-methylphenoxyacetic acid (6.73 g) in dichloromethane (70 ml), and the reaction mixture was stirred for 1.5 hours. The reaction solution was concentrated under reduced pressure, then the resulting acidic gas was removed as the toluene azeotrope, and the product was dried under reduced pressure to give 4-methylphenoxyacetyl chloride. A 1.61N solution of n-butyl lithium in hexane (25.2 ml) was added dropwise at −78° C. to a solution of (S)-4-benzyl-2-oxazolidinone (7.08 g) in tetrahydrofuran (70-ml), and after the completion of the dropwise addition, the reaction mixture was stirred at −78° C. for 30 minutes. To this resulting solution was added at −78° C. a solution of 4-methylphenoxyacetyl chloride obtained above in tetrahydrofuran (70 ml) followed by stirring at 0° C. for 1 hour. The resulting reaction mixture was partitioned between ethyl acetate and water, and the ethyl acetate layer was washed successively with a 1N aqueous solution of hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column (eluant; hexane/ethyl acetate =3/1˜1/1) to afford the target compound (9.00 g) as a colorless oil.

reactant | Oxalyl chloride | 8.83 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methylphenoxyacetic acid | 6.73 g | CC1=CC=C(OCC(=O)O)C=C1 | C9H10O3
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-methylphenoxyacetyl chloride | CC1=CC=C(OCC(=O)Cl)C=C1 | C9H9ClO2
